* C:\Users\facud\OneDrive\Escritorio\ITBA\Primer Cuatri 2023\Física Electrónica\TP-Final-Fisica-Electronica\Spice\Circuito_BJT\Circuito_BJT_Punto Q.asc
Q1 Vce Vbe 0 0 BC546B
V1 N002 0 0.6009
V2 N001 0 5
RC N001 Vce {RC}
RB Vbe N002 {RB}
.model NPN NPN
.model PNP PNP
.lib C:\Users\facud\AppData\Local\LTspice\lib\cmp\standard.bjt
.param RC = 22k+pow(15,2)
.param RB = 220
.op 0 400m 0 1u
.backanno
.end
