* C:\Users\facud\OneDrive\Escritorio\ITBA\Primer Cuatri 2023\Física Electrónica\TP-Final-Fisica-Electronica\Spice\Circuito_MOSFET_Enrich\Circuito_MOSFET_Enrich_Curva_Salida.asc
M1 Vds Vgs 0 0 2N7000
V1 Vgs 0 1.6730762923
V2 N001 0 10
RD N001 Vds 5k
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\facud\AppData\Local\LTspice\lib\cmp\standard.mos
.dc V2 -3 100 1m
.backanno
.end
